US05500474
6-Anilino 1-hexanesulfonic acid sodium salt (11.2 g, 0.5 mol) is dissolved in aqueous 0.5M HCLO4 solution (30 mL) and acetonitrile (400 mL) is added to the solution. The solution is filtered and the filtrate is kept in a refrigerator overnight to obtain 6-anilino-1-hexanesulfonic acid as a precipitate.

reactant | 6-Anilino 1-hexanesulfonic acid sodium salt | 0.5 mol, 11.2 g | [Na+].N(C1=CC=CC=C1)CCCCCCS(=O)(=O)[O-]
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 6-anilino-1-hexanesulfonic acid | N(C1=CC=CC=C1)CCCCCCS(=O)(=O)O | C12H19NO3S
